US08895313B2
6-(Dimethylamino)-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pyridine-3-carboxamide
A stirred mixture of 6-chloro-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pyridine-3-carboxamide (0.15 g, 0.414 mmol), dimethylamine hydrochloride (0.845 g, 10.36 mmol) and K2CO3 (1.43 g, 10.36 mmol) in dry DMSO (10 ml) was heated at 170° C. for 16 h under an atmosphere of argon. The cooled reaction mixture was added to water (200 ml) and the precipitate was collected by filtration and dried in the air. The solid was purified by flash chromatography (12:1 DCM/MeOH) to give the title compound (0.113 g, 73%) as a pale yellow solid.

reactant | 6-chloro-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pyridine-3-carboxamide | 0.414 mmol, 0.15 g | ClC1=CC=C(C=N1)C(=O)NC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1 | C20H15ClN4O
reactant | dimethylamine hydrochloride | 10.36 mmol, 0.845 g | Cl.CNC
reactant | K2CO3 | 10.36 mmol, 1.43 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 6-(Dimethylamino)-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]pyridine-3-carboxamide | 0.113 g, 73% | CN(C1=CC=C(C=N1)C(=O)NC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1)C | C22H21N5O
